US07795267B2
Hexahydro-7-(2-oxo-2-phenylethyl)-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one
To a solution of hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (0.10 g, 0.34 mmol) in tetrahydrofuran (2 mL) were sequentially added diisopropylethylamine (0.6 mL) and phenacyl bromide (0.10 g, 0.51 mmol), and the mixture was stirred at room temperature for 17 hours. To the reaction solution was added water, and the mixture was extracted with ethyl acetate. The extract was washed with water and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:1), hexane was added thereto, and powder was formed to obtain the title compound (92 mg, yield 66%).

reactant | hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.34 mmol, 0.10 g | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
reactant | diisopropylethylamine | 0.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phenacyl bromide | 0.51 mmol, 0.10 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | Hexahydro-7-(2-oxo-2-phenylethyl)-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 92 mg, yield 66% | O=C(CN1CC2N(CC1)C(OC2(C2=CC=CC=C2)C2=CC=CC=C2)=O)C2=CC=CC=C2 | C26H24N2O3
